US06479487B1
Cis-2-chloro-6-[(4-hydroxy)cyclohexylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, cis-4-(amino)cyclohexanol, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | cis-4-(amino)cyclohexanol | N[C@H]1CC[C@H](CC1)O | C6H13NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Cis-2-chloro-6-[(4-hydroxy)cyclohexylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)N[C@@H]1CC[C@@H](CC1)O | C16H22ClN5O
